US06458830B1
(ii) Ethyl N-t-Butyloxycarbonyl-3-methylpiperidine-3-carboxylate
Potassium bis(trimethylsilyl)amide (1200 ml, 0.5M in toluene, 0.6 mol) was added to a 3-necked 3-l flask equipped with an overhead stirrer, followed by tetrahydrofuran (90 ml) and the solution was cooled to −78° C. Ethyl N-(t-butyloxycarbonyl)nipecotate (100 g, 0.39 mol) in tetrahydrofuran (90 ml) was added dropwise and the resulting solution allowed to age for 15 minutes. Iodomethane (37.4 ml, 85.2 g, 0.6 mol) was added dropwise to the stirred solution keeping the temperature below −70° C. The resulting mixture was stirred at room temperature overnight and was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water and the organic layer was washed with brine, dried (sodium sulphate) and evaporated to give a yellow oil. This was purified on a plug of silica using dichloromethane as eluant to afford the product (94 g, 90%) as a pale yellow oil.

reactant | Potassium bis(trimethylsilyl)amide | 0.6 mol, 0.5M, 1200 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Ethyl N-(t-butyloxycarbonyl)nipecotate | 0.39 mol, 100 g | C(C)(C)(C)OC(=O)N1CC(C(=O)OCC)CCC1 | C13H23NO4
reactant | Iodomethane | 0.6 mol, 37.4 ml, 85.2 g | IC | CH3I
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | Ethyl N-t-Butyloxycarbonyl-3-methylpiperidine-3-carboxylate | 94 g, 90% | C(C)(C)(C)OC(=O)N1CC(CCC1)(C(=O)OCC)C | C14H25NO4
